US06911468B2
(2) Ethyl 3-(1-naphthyl)propanoate
To a solution of ethyl (2E)-3-(1-naphthyl)propenoate (37.6 g, 166 mmol) in ethanol (500 ml) was added 10% palladium carbon (4 g) and the mixture was stirred under hydrogen atmosphere for 5 hours. The insoluble matter was filtered out and the filtrate was concentrated to give the object compound as an oily substance. 37.7 g (yield: 99.7%)

reactant | ethyl (2E)-3-(1-naphthyl)propenoate | 166 mmol, 37.6 g | C1(=CC=CC2=CC=CC=C12)/C=C/C(=O)OCC | C15H14O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium carbon | 4 g | [C].[Pd]
product | Ethyl 3-(1-naphthyl)propanoate | yield: 99.7% | C1(=CC=CC2=CC=CC=C12)CCC(=O)OCC | C15H16O2
